US04904667
7,8-Dimethoxy-1H-1,2,4-thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide.
To a stirred slurry of 4,5-dimethoxyisatoic anhydride (4.46 g, 20 mmol) and S-methyl-N-(chloromethanesulfonyl)isothiourea (4.06 g, 20 mmol) in dioxane (30 ml) is added 1,5-diazabicyclo[4.3.0]non-5-ene (2.5 ml). The mixture is refluxed for 4 hr under nitrogen, then cooled and poured into 0.3N aqueous hydrochloric acid. The precipitate is collected by filtration and recrystallized from DMSO to provide the title compound as a light yellow solid, mp >300° C. (445 mg, 7.5%).

reactant | 4,5-dimethoxyisatoic anhydride | 20 mmol, 4.46 g | COC=1C=C2C(C(=O)OC(N2)=O)=CC1OC | C10H9NO5
reactant | S-methyl-N-(chloromethanesulfonyl)isothiourea | 20 mmol, 4.06 g | CSC(NS(=O)(=O)CCl)=N | C3H7ClN2O2S2
reactant | 1,5-diazabicyclo[4.3.0]non-5-ene | 2.5 ml | N12CCCN=C2CCC1 | C7H12N2
reactant | hydrochloric acid | 0.3N | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 7,8-Dimethoxy-1H-1,2,4-thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide | COC=1C=C2C(N3C(=NC2=CC1OC)NS(C3)(=O)=O)=O | C11H11N3O5S
